US04382945
Preparation of 2-phenyl-4,5,7,8-tetrahydro-4,4,8,8-tetramethyl-1-H-thiepino-[4,5-d]-imidazole 6-oxide
1.43 g of 2-phenyl-4,5,7,8-tetrahydro-4,4,8,8-tetramethyl-1-H-thiepino[4,5-d]imidazole are dissolved in 75 ml of methanol and cooled to 2° C. with stirring. The solution is treated dropwise at this temperature with a solution of 1.3 g of sodium periodate in 28 ml of water. The mixture is left to react-out at the same temperature for 3 hours. Thereupon, 25 ml of methanol are added. After stirring for 5 hours at room temperature, the solution is concentrated. The product is left to crystallize-out while cooling with ice. The precipitate is removed by filtration and the crystals are covered with acetone and ether. After filtration, the 2-phenyl-4,5,7,8-tetrahydro-4,4,8,8-tetramethyl-1-H-thiepino-[4,5-d]-imidazole 6-oxide is recrystallized from ethanol/n-hexane, m.p. 273°-275° C.; m.p. of the hydrochloride: 300° C.

reactant | 2-phenyl-4,5,7,8-tetrahydro-4,4,8,8-tetramethyl-1-H-thiepino[4,5-d]imidazole | 1.43 g | C1(=CC=CC=C1)C1=NC2=C(N1)C(CSCC2(C)C)(C)C | C17H22N2S
reactant | sodium periodate | 1.3 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
solvent | water | 28 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 2-phenyl-4,5,7,8-tetrahydro-4,4,8,8-tetramethyl-1-H-thiepino-[4,5-d]-imidazole 6-oxide | C1(=CC=CC=C1)C1=NC2=C(N1)C(CS(CC2(C)C)=O)(C)C | C17H22N2OS
